US05849693
Methyl 2-amino-4-thiazoleacetate hydrochloride salt (1)
To a solution of methyl 4-chloro-acetoacetate (4.0 g, 27 mmol) in 50 mL of THF was added thiourea (2.0 g, 27 mmol) and the resulting suspension was stirred at reflux for 5 h. The mixture was allowed to cool to room temperature. The white solid was filtered off and washed with ether to afford 5.0 g (90%) of the title compound. 1H NMR (D2O) δ 6.6 (broad s, 1H), 3.7 (broad s, 2H), 3.6 (broad s, 3H). MS (NH3 --CI) 173 (M+H)+ (100%).

reactant | methyl 4-chloro-acetoacetate | 27 mmol, 4.0 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | thiourea | 27 mmol, 2.0 g | NC(=S)N | CH4N2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Methyl 2-amino-4-thiazoleacetate hydrochloride salt | 5.0 g, 90% | Cl.NC=1SC=C(N1)CC(=O)OC | InChI=1S/C6H8N2O2S.ClH/c1-10-5(9)2-4-3-11-6(7)8-4;/h3H,2H2,1H3,(H2,7,8);1H
